US05399291
0.4 g of sodium hydride (97% pure), 15 ml of toluene and 15 ml of anhydrous N,N-dimethylformamide were placed in a 100 flask fitted with a magnetic stir bar and water-cooled condensor with a dry nitrogen inlet. Then 3.3 g (0.0106 moles) of 5-decyl-2-(4-hydroxyphenyl)pyrimidine was slowly added. After stirring for 30 minutes at room temperature, 3.9 g (0.0106 moles) of 5-ethoxy-2,2,3,3,4,4-hexafluoropentyl trifluoromethanesulfonate (made essentially as in Example 3) was added and the contents stirred overnight at room temperature. The contents then were poured into a separatory funnel containing 30 ml of water. The funnel was shaken and the two layers formed were allowed to separate. The aqueous layer was extracted twice with two 15 ml aliquots of toluene. The organic layers were combined, then washed four times with 20 ml aliquots of deionized water, dried with anhydrous sodium sulphate, and stripped of solvent using a rotary evaporator. The resulting oil was chromatographed on silica gel (chloroform) to obtain 2.07 g of 5-decyl-2-(4-(5-ethoxy-2,2,3,3,4,4-hexafluoropentoxy)phenyl)pyrimidine.

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | 5-decyl-2-(4-hydroxyphenyl)pyrimidine | 0.0106 moles, 3.3 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C20H28N2O
reactant | 5-ethoxy-2,2,3,3,4,4-hexafluoropentyl trifluoromethanesulfonate | 0.0106 moles, 3.9 g | FC(S(=O)(=O)OCC(C(C(COCC)(F)F)(F)F)(F)F)(F)F | C8H9F9O4S
solvent | water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 5-decyl-2-(4-(5-ethoxy-2,2,3,3,4,4-hexafluoropentoxy)phenyl)pyrimidine | 2.07 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCC(C(C(COCC)(F)F)(F)F)(F)F | C27H36F6N2O2
